US09422262B2
N-(3-aminophenyl)-2-bromobenzamide
2-Bromo-N-(3-nitrophenyl)benzamide (6.89 g, 21.5 mmol) was added to a 1 L flask with stir bar and dissolved with THF (143 mL). Sodium dithionite (37.4 g, 215 mmol) (aka sodium hydrosulfite) was added to a separate flask and dissolved with water (143 mL). The resulting cloudy solution was added to the solution of substrate, and the flask was sealed and flushed with nitrogen, then stirred vigorously for 16 h with a vent line to an oil bubbler. After this time LC-MS analysis showed complete conversion to a mixture of the desired product plus its N-sulfate. To hydrolyze the sulfated material, saturated aqueous ammonium chloride (30 mL) was added, and the mixture was refluxed for 4 h. The layers were then separated, and the aqueous layer was extracted twice with ethyl acetate. The combined organics were washed with brine, then dried over Na2SO4, filtered, and concentrated. The crude material was then dissolved with dichloromethane and ethyl acetate, leaving an insoluble gum behind. The solution was purified by column chromatography (EtOAc/hexanes gradient), to yield the title compound as a pale yellow solid (4.10 g, 66%). LRMS (ESI+) (M+H): 291.96.

reactant | 2-Bromo-N-(3-nitrophenyl)benzamide | 21.5 mmol, 6.89 g | BrC1=C(C(=O)NC2=CC(=CC=C2)[N+](=O)[O-])C=CC=C1 | C13H9BrN2O3
reactant | THF | 143 mL | C1CCOC1 | C4H8O
reactant | Sodium dithionite | 215 mmol, 37.4 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 143 mL | O | H2O
product | N-(3-aminophenyl)-2-bromobenzamide | 4.10 g, 66% | NC=1C=C(C=CC1)NC(C1=C(C=CC=C1)Br)=O | C13H11BrN2O
